US07829585B2
6-Benzyloxy-benzofuran-2-carboxylic acid ethyl ester
To a N,N-dimethylformamide (200 mL) solution of 4-benzyloxy-2-hydroxybenzaldehyde (18.6 g, 81.4 mmol) were added ethyl bromoacetate (9.94 mL, 89.6 mmol) and potassium carbonate (22.6 g, 163 mmol) at room temperature, which was stirred at 125° C. for 3 hours. To the reaction mixture was added water at room temperature followed by extraction with ethyl acetate. After washing the organic layer with water and sat. NaCl, the organic layer was dried over anhydrous magnesium sulfate and filtered followed by concentrating the filtrate under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=7:3) to obtain the title compound (18.4 g, 76%) as a white solid.

reactant | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
reactant | 4-benzyloxy-2-hydroxybenzaldehyde | 81.4 mmol, 18.6 g | C(C1=CC=CC=C1)OC1=CC(=C(C=O)C=C1)O | C14H12O3
reactant | ethyl bromoacetate | 89.6 mmol, 9.94 mL | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 163 mmol, 22.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 6-Benzyloxy-benzofuran-2-carboxylic acid ethyl ester | 18.4 g, 76% | C(C)OC(=O)C=1OC2=C(C1)C=CC(=C2)OCC2=CC=CC=C2 | C18H16O4
